* D:\GitHub Repositories\IMMD\Project\3501\Furkan\Loss LTSpice\NormalGD.asc
L3 N012 N018 {L_DPT}
R1 N006 N005 {Rgon}
R2 N006 N008 {Rgoff}
R3 N019 N015 {Rgon}
R4 N019 N021 {Rgoff}
S1 N005 N002 N003 N004 SW_GDH
S2 N004 N008 N004 N003 SW_GDL
S3 N015 N011 N013 N014 SW_GDH
S4 N014 N021 N014 N013 SW_GDL
V2 N002 N001 {VDRV_P}
V3 N001 N004 {VDRV_N}
V4 N011 N016 {VDRV_P}
V5 N016 N014 {VDRV_N}
V6 N003 N004 PULSE(-1 1 {DT} 1n 1n {T_ON-2*DT} {T_P} 2)
V7 N013 N014 PULSE(1 -1 0 1n 1n {T_ON} {T_P} 2)
XU2 N020 BotDrain 0 N016 JunctionBot JunctionBot GS66508B_L3V2
XU1 N007 TopDrain TopSource N001 JunctionTop JunctionTop GS66508B_L3V2
C1 N009 N017 5e-6 IC={VBUS} Rser=23e-3 Lser=19.9e-9
L4 N010 N009 29.8n Rser=1037u
L5 N018 N017 48.6n Rser=1422u
V1 N010 N018 {VBUS}
C2 N024 N032 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
C3 N023 N031 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
C4 N022 N030 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
V8 JunctionTop 0 {temp}
V9 JunctionBot 0 {temp}
C5 N027 N035 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
C6 N026 N034 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
C7 N025 N033 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
C8 N029 N037 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
C9 N028 N036 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
L1 N022 TopDrain 3.08n Rser=10.4m
L2 N023 TopDrain 3.08n Rser=10.3m
L6 N024 TopDrain 3.08n Rser=10.3m
L7 N025 TopDrain 0.135n Rser=1.41m
L8 N026 TopDrain 0.13n Rser=1.15m
L9 N027 TopDrain 0.127n Rser=0.981m
L10 N028 TopDrain 0.126n Rser=0.945m
L11 N029 TopDrain 0.128n Rser=1.03m
L12 0 N030 2.13n Rser=6.88m
L13 0 N031 2.12n Rser=6.64m
L14 0 N032 2.12n Rser=6.46m
L15 0 N033 7.96n Rser=26.1m
L16 0 N034 7.96n Ipk=26.3m
L17 0 N035 7.96n Rser=26.4m
L18 0 N036 7.96n Rser=26.7m
L19 0 N037 7.96n Rser=26.9m
L20 TopDrain N009 2.13n Rser=11.2m
L21 N017 0 13.34n Rser=41.2m
L22 TopSource N012 0.55n Rser=2.34m
L23 N012 BotDrain 0.55n Rser=2.34m
L24 N007 N006 1.4n
L25 N020 N019 1.4n
.model SW_GDH VSWITCH Roff=1e6 Ron=2 Voff=0 Von=1
.model SW_GDL VSWITCH Roff=1e6 Ron=4 Voff=0 Von=1
.tran 0 8U 0
.option ITL1 = 500
.option ITL2 = 500
.option ITL4 = 500
.option RELTOL = 0.01
.option ABSTOL=1E-09
.option CHGTOL=1E-12
.option VNTOL=1E-6
.option GMIN=1E-15
.option TRTOL=1
.option noopiter
.option gminsteps=0
.option topologycheck=0
.option temp=65
.param VBUS=300
.param ISW=2.2
.param Rgon=22
.param Rgoff = 2
.param VDRV_P=6
.param VDRV_N=3
.param DT=100n
.param T_ON=4U
.param L_DPT=VBUS*(T_ON-2*DT)/ISW
.param T_P = 6U
.param L_GATE = 3N
.param LS_EX = 10p
.param L_DS=3n
.lib GaN_LTspice_GS66508B_L3V2.lib
.backanno
.end
